US05652238
Methoxyacetic acid, 2-(4-(4-(5-((acetylamino)methyl)-2-oxo3-oxazolidinyl)-2-fluorophenyl)-1-piperazinyl)-2-oxoethyl ester, (S)
The (S)-N-[[3-[3-fluoro-4-[4-(hydroxyacetyl)-1-piperazinyl]phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide (263 mg, 0.67 mmol) was slurried in dry CH2Cl2 (10 mL) and cooled to 0° C. in an ice bath. The soluton became homogeneous after the addition of the pyridine (0.216 mL, 2.67 mmol). Next, the methoxyacetyl chloride (0.064 mL, 0.69 mmol) was added drop wise. The reaction was stirred at 0° C. for 30 minutes and then the ice bath was removed. After one hour, the reaction was found to be complete by TLC (10% MeOH/CHCl3, UV short wave). The reaction mixture was diluted with CH2Cl2 (100 mL) and then washed with 1N HCl/brine (50 mL each), saturated NaHCO3 /brine (50 mL each), and brine (100 mL). Each aqueous portion was back-extracted with more CH2Cl2 (2×25 mL). The organic layers were combined, dried over anhydrous NaSO4, filtered, and concentrated under reduced pressure to give an orange solid. This solid was chromatographed on silica gel (35 g,) eluting with a gradient of 1-5% MeOH in 10% CH3CN/CHCl3 to give an orange solid. The latter solid was recrystallized by dissolving it in a minimal amount of CH2Cl2 /MeOH and then triturating with ether to yield 158 mg (51%) of the title compound as an off-white solid with a melting point of 147°-148° C. Aqueous solubility (pH 7, phosphate buffer) was 6.4 mg/ml.

reactant | (S)-N-[[3-[3-fluoro-4-[4-(hydroxyacetyl)-1-piperazinyl]phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide | 0.67 mmol, 263 mg | FC=1C=C(C=CC1N1CCN(CC1)C(CO)=O)N1C(O[C@H](C1)CNC(C)=O)=O | C18H23FN4O5
reactant | pyridine | 2.67 mmol, 0.216 mL | N1=CC=CC=C1 | C5H5N
reactant | methoxyacetyl chloride | 0.69 mmol, 0.064 mL | COCC(=O)Cl | C3H5ClO2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | Methoxyacetic acid, 2-(4-(4-(5-((acetylamino)methyl)-2-oxo3-oxazolidinyl)-2-fluorophenyl)-1-piperazinyl)-2-oxoethyl ester | 158 mg, 51% | COCC(=O)OCC(=O)N1CCN(CC1)C1=C(C=C(C=C1)N1C(OC(C1)CNC(C)=O)=O)F | C21H27FN4O7
